US09303023B2
To a solution of 4-nitro-1H-pyrazole (220 mg, 1.90 mmol) in MeCN (9.5 mL), 1-(2-bromoethoxy)-3-methoxybenzene (495 mg, 2.14 mmol) dissolved in MeCN (1.5 mL) and Cs2CO3 (697 mg, 2.14 mmol) was added. The resulting mixture was refluxed (80° C.) for 1.5 h, then the reaction mixture was allowed to reach rt. The mixture was diluted with DCM, filtered, the filter cake was washed with DCM and the filtrate was concentrated in vacuo to obtain 1-(2-(3-methoxyphenoxy)ethyl)-4-nitro-1H-pyrazole which was used in the next step without further purification. LC-MS conditions A: tR=0.85 min, [M+H]+=no ionization.

reactant | 4-nitro-1H-pyrazole | 1.90 mmol, 220 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | 1-(2-bromoethoxy)-3-methoxybenzene | 2.14 mmol, 495 mg | BrCCOC1=CC(=CC=C1)OC | C9H11BrO2
reactant | Cs2CO3 | 2.14 mmol, 697 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 9.5 mL | CC#N | C2H3N
solvent | MeCN | 1.5 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(2-(3-methoxyphenoxy)ethyl)-4-nitro-1H-pyrazole | COC=1C=C(OCCN2N=CC(=C2)[N+](=O)[O-])C=CC1 | C12H13N3O4
